US04698340
To a solution of ethyl 4-nitrobenzoylacetate (11.9 g) in benzene (100 ml) was dropwise added N,N-dimethylformamide dimethylacetal (9.5 g) dissolved in benzene (50 ml) during a period of 0.5 hour, under stirring at room temperature. The mixture was refluxed for 4 hours. The reaction mixture was evaporated under reduced pressure. The resulting oil was recrystallized from ether-hexane to give 12.5 g of ethyl 2-(4-nitrobenzoyl)-3-dimethylaminopropenoate.

reactant | ethyl 4-nitrobenzoylacetate | 11.9 g | [N+](=O)([O-])C1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11NO5
reactant | N,N-dimethylformamide dimethylacetal | 9.5 g | COC(N(C)C)OC | C5H13NO2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-(4-nitrobenzoyl)-3-dimethylaminopropenoate | 12.5 g | [N+](=O)([O-])C1=CC=C(C(=O)C(C(=O)OCC)=CN(C)C)C=C1 | C14H16N2O5
